US05270302
a. N-benzyloxycarbonyl-2-aminoadipic acid
A solution of L-2-aminoadipic acid (920 mg, 5.71 mmol), triethylamine (2.85 mL, 20.5 mmol) and water (3 mL) in 12 mL of dioxane was cooled to 0° C. and N-benzyloxycarbonyloxysuccinimide (Cbz-OSu: 1.71 g, 6.85 mmol) was added. The reaction mixture was stirred at 0° C. for 2 hours and at ambient temperature for 0.5 hours. The reaction mixture was washed with ethyl acetate and then acidified with aqueous potassium hydrogen sulfate. The acidic solution was extracted with ethyl acetate and the ethyl acetate solution was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give 1.80 g of the title compound. MS (FAB+) m/e 296 (M+H)+.

reactant | L-2-aminoadipic acid | 5.71 mmol, 920 mg | C(C[C@@H](C(=O)O)N)CC(=O)O | C6H11NO4
reactant | triethylamine | 20.5 mmol, 2.85 mL | C(C)N(CC)CC | C6H15N
reactant | water | 3 mL | O | H2O
reactant | N-benzyloxycarbonyloxysuccinimide | 6.85 mmol, 1.71 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | N-benzyloxycarbonyl-2-aminoadipic acid | 1.80 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)CCCC(=O)O | C14H17NO6
